US07199147B2
Potassium carbonate (8.64 g, 62.5 mmol) was added to a solution of 2,2,2-trifluoro-N-(1H-indazol-5-yl)-N-methylacetamide (3.80 g, 15.6 mmol) in a mixture of methanol (95 ml) and water (16 ml) at room temperature, and the resulting mixture was refluxed for 1.5 hours. Then, the reaction solution was concentrated and the resulting residue was poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain N-methyl-1H-indazol-5-amine (2.30 g, 100%).

reactant | Potassium carbonate | 62.5 mmol, 8.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoro-N-(1H-indazol-5-yl)-N-methylacetamide | 15.6 mmol, 3.80 g | FC(C(=O)N(C)C=1C=C2C=NNC2=CC1)(F)F | C10H8F3N3O
solvent | methanol | 95 ml | CO | CH4O
solvent | water | 16 ml | O | H2O
product | N-methyl-1H-indazol-5-amine | 2.30 g, 100% | CNC=1C=C2C=NNC2=CC1 | C8H9N3
